US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine (cf. Example 40 below) as described in Example 1 to give 3-[4-fluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a cream solid.

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 4-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=NC=C1 | C17H19BFNO2
product | 3-[4-fluoro-3-(pyridin-4-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=CC=NC=C2 | C18H10F4N4
